US07612114B2
6-(6-Aminobenzo[1,3]dioxole-5-yl)-5,6,7,8-tetrahydronaphthalen-2-ol
To a solution of 5-(6-benzyloxy-3,4-dihydronaphthalen-2-yl)-6-nitrobenzo[1,3]dioxole (832 mg) in acetic acid (10 ml) was added 20% palladium hydroxide-activated charcoal (200 mg), and the solution was stirred for 13 hours at room temperature under a hydrogen atmosphere at 4 atmospheric pressures. After filtration through celite pad, the solution was concentrated, neutralized with aqueous ammonia, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (240 mg).

reactant | 5-(6-benzyloxy-3,4-dihydronaphthalen-2-yl)-6-nitrobenzo[1,3]dioxole | 832 mg | C(C1=CC=CC=C1)OC=1C=C2CCC(=CC2=CC1)C1=CC2=C(OCO2)C=C1[N+](=O)[O-] | C24H19NO5
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | 6-(6-Aminobenzo[1,3]dioxole-5-yl)-5,6,7,8-tetrahydronaphthalen-2-ol | 240 mg | NC=1C(=CC2=C(OCO2)C1)C1CC=2C=CC(=CC2CC1)O | C17H17NO3
